US07652058B2
To a 2 L flask containing 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl.(3.76 g) and Pd(OAc)2 (1.02 g) were added 396 mL of 1 N LHMDS in hexanes, then 400 mL of toluene under N2. The solution was cooled to −10° C. and tButyl acetate (49 mL was added. The solution was stirred at −10° C. for 10 min and was added 2-bromo-5-fluoro toluene. The mixture was heated at 80° C. for 15 min and was washed with NH4Cl and NaCl, dried with Na2SO4, filtered and concentrated. The crude was purified by flash chromatorghy with EtOAc/hexanes=1:30 to give tert-butyl (4-fluoro-2-methylphenyl)acetate (21.85 g).

reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | LHMDS | 1 N, 396 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | acetate | C(C)(=O)[O-]
reactant | 2-bromo-5-fluoro toluene | BrC1=C(C=C(C=C1)F)C | C7H6BrF
catalyst | Pd(OAc)2 | 1.02 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (4-fluoro-2-methylphenyl)acetate | 21.85 g | FC1=CC(=C(C=C1)CC(=O)OC(C)(C)C)C | C13H17FO2
